US07452886B2
7-(2,2-Dimethyl-propyl)-6-(4-[1,2,4]triazol-1-ylmethyl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
1,2,4-Triazole (0.6 mmol) is dissolved in DMF (1 ml) and sodium hydride (0.6 mmol) is added. The mixture is stirred and 6-(4-bromomethyl-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.5 mmol) in DMF (1 ml) is added at 0° C. The mixture is stirred at room temperature for 0.5 h, and quenched with H2O. The mixture is extracted with AcOEt. The organic layer is washed with water and brine, dried over magnesium sulfate and concentrated. The crude product is purified by silica gel column chromatography to give the product in 57% yield. Rf=0.50 (CH2Cl2:MeOH=9:1). 1H NMR (400 MHz, CDCl3) δ 1.04(s, 9H), 4.06(s, 2H), 4.22(s, 2H), 5.36(s, 2H), 6.22(s, 1H), 7.18(d, 2H), 7.23-7.39(m, 2H), 7.98(s, 1H), 8.09(s, 1H), 8.83(s, 1H).

reactant | 1,2,4-Triazole | 0.6 mmol | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.6 mmol | [H-].[Na+]
reactant | 6-(4-bromomethyl-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.5 mmol | BrCC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)C=C1 | C20H21BrN4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 7-(2,2-Dimethyl-propyl)-6-(4-[1,2,4]triazol-1-ylmethyl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 57% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CC2=CC=C(C=C2)CN2N=CN=C2)(C)C | C22H23N7
